US04065488
Either one of the above residues containing the mixture of the 2-acetate, 5-acetate and 2,5-diacetate of 1,4:3,6-dianhydro-D-glucitol is nitrated. The preferred nitration method is to add slowly the residue over a period of 0.1 to 5 hours to a solution at -5° to 25° C, preferably 0° to 5° C, of one to 20 molar equivalents, preferably three to five molar equivalents, of acetic anhydride and one to ten molar equivalents, preferably one to two molar equivalents, of nitric acid. After the addition is completed, the reaction mixture is stirred for about 0.5 to 2 hours at -5° to 25° C, preferably 0° to 5° C, in order to complete the nitration. In this manner a solution containing a mixture of 1,4:3,6-dianhydro-D-glucitol 5-acetate 2-nitrate, 1,4:3,6-dianhydro-D-glucitol 2-acetate 5-nitrate and 1,4:3,6-dianhydro-D-glucitol 2,5-diacetate is obtained.

reactant | 1,4:3,6-dianhydro-D-glucitol | C1[C@H]([C@@H]2[C@H](O1)[C@H](CO2)O)O | C6H10O4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 1,4:3,6-dianhydro-D-glucitol 2,5-diacetate | CC(=O)O[C@@H]1CO[C@H]2[C@@H]1OC[C@@H]2OC(=O)C | C10H14O6
